US04699914
1-[4-(1-imidazolyl)-2-thienyl]-2-propanone
A mixture of 34 g (1-[2-(2-nitro-1-propenyl)-4-thienyl]-imidazole, 65 g iron powder, 0.9 ferrichloride hexahydrate, 51 ml methanol and 100 ml water are heated to reflux temperature while stirring. At this temperature, 65 ml concentrated hydrochloric acid are added dropwise within 1 hour. Subsequently, stirring is continued for 11/2 hours under reflux. After cooling, the mixture is stirred into 4 times the amount of methanol. Then, it is filtrated. The filtrate is evaporated to about 1/5 of its volume and filled up with water to 500 ml. The precipitated brown deposit is sucked off, then the filtrate is extracted several times with dichloromethane. The united dichloromethane phases are dried and evaporated. The residual crude product is used in the following reaction steps without further purification.

reactant | 1-[2-(2-nitro-1-propenyl)-4-thienyl]-imidazole | [N+](=O)([O-])C(=CC=1SC=C(C1)N1C=NC=C1)C | C10H9N3O2S
reactant | water | 100 ml | O | H2O
reactant | hydrochloric acid | 65 ml | Cl | ClH
catalyst | iron | 65 g | [Fe] | Fe
solvent | methanol | CO | CH4O
solvent | methanol | 51 ml | CO | CH4O
product | 1-[4-(1-imidazolyl)-2-thienyl]-2-propanone | N1(C=NC=C1)C=1C=C(SC1)CC(C)=O | C10H10N2OS
